US07449475B2
A mixture of 2-nitro-4-(trifluoromethyl)phenol (310 mg, 1.5 mmol), palladium on carbon (10%, 125 mg) and acetic anhydride (306.3 mg, 3.0 mmol) in methanol was hydrogenated for 2 h at atmospheric pressure. The catalyst was filtered off, the filtrate was concentrated in vacuo to give crude N-[2-hydroxy-5-(trifluoromethyl)phenyl]acetamide (331 mg). A part (219.16 mg, 1.0 mmol) of N-[2-hydroxy-5-(trifluoromethyl)phenyl]acetamide was treated with [(2S)-2-methyloxiran-2-yl]methyl3-nitrobenzenesulfonate (273.27 mg, 1.0 mmol) in the presence of Cs2CO3 (406.25 mg, 1.25 mmol) in DMF (5 mL) at room temperature for 5 h. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried over Na2SO4, filtered, concentrated. The residue was purified by silica gel flash chromatography (0-40% ethyl acetate in petroleum ether) to give the subtitled compound (230 mg).

reactant | 2-nitro-4-(trifluoromethyl)phenol | 1.5 mmol, 310 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)O | C7H4F3NO3
reactant | acetic anhydride | 3.0 mmol, 306.3 mg | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium on carbon | 125 mg | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N-[2-hydroxy-5-(trifluoromethyl)phenyl]acetamide | 331 mg | OC1=C(C=C(C=C1)C(F)(F)F)NC(C)=O | C9H8F3NO2
